US06338741B1
a) Preparation of 5-amino-1-(β-hydroxyethyl)-3-methylpyrazole
To a solution of 16.4 g (0.2 mol) of 3-aminocrotononitrile in 100 cm3 of n-pentanol were added 16.7 g (0.22 mol) of β-hydroxyethylhydrazine and the mixture was then heated at reflux for 12 hours. The n-pentanol was subsequently distilled off under reduced pressure. A thick oil was obtained, which crystallizes by addition of 150 cm3 of isopropyl ether. A beige solid was obtained, which was filtered off on a sinter funnel. After drying under vacuum at 40° C., 18 g of the expected product were obtained in the form of a beige solid, the melting point of which was from 66 to 68° C.

reactant | 3-aminocrotononitrile | 0.2 mol, 16.4 g | N\C(=C/C#N)\C | C4H6N2
reactant | β-hydroxyethylhydrazine | 0.22 mol, 16.7 g | OCCNN | C2H8N2O
solvent | n-pentanol | 100 cm3 | C(CCCC)O | C5H12O
product | 5-amino-1-(β-hydroxyethyl)-3-methylpyrazole | 18 g | NC1=CC(=NN1CCO)C | C6H11N3O
